Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
feeling unwell
 
Major Surgical or Invasive Procedure:
Central line placement 
PICC line placement

 
History of Present Illness:
___ gentleman with systolic CHF (LVEF 25%),Afib (not on 
anticoagulation) presented to the ED due to generally feeling 
unwell x 2 days, described as having some diarrhea ___ night 
and dizziness this morning upon wakening. He has a mild cough 
and assoc. shortness of breath, satting at 93% on RA. Pt denies 
fevers, urinary symptoms, or abdominal pain. He does endorse 
some nausea and chills, and had an episode of loose watery 
stools yesterday. He has chronic BLE edema and weeping with some 
pain in left leg skin. His daughter has noticed that he has been 
coughing while drinking liquids over the past few weeks.
.
Of note, the patient was recently admitted from ___ 
for dizziness and diarrhea likely from gastroenteritis resulting 
in tachycardia and hypotension. His Torsemide was held 
initially, he received IVF, and on dc he was restarted on 
Torsemide at 20mg. His torsemide was increased to 30 mg ___ 
at his cardiology appointment for increased BLE edema (L>R). 
Pt's daughter states that after the increase in his Torsemide 
dose, he may have gone 3 days w/o K repletion.
.
In the ER, initial vitals are 98.4 77 128/74 24 98% 4L Nasal 
Cannula. He subsequently developed fever to 103.8 and 
hypotension to 82/36. CXR shows a dense retrocardiac opacity 
concerning for PNA. Trop: 0.06, WBC:8 with 89.9% PMNs and no 
bands. He received 2L IVF, Levofloxacin 750mg, Vanc 1000mg, and 
was started on a Norepinephrine drip. EKG showed Right bundle 
branch block, atrial fibrillation. Labs notable for lactate 4.4 
-> 2.7 after 2L fluid. UA showed negative nitrites, negative 
leukocytes, 20 wbcs. Blood cultures were sent. He was 
transferred to the ICU for treatment of septic shock.
.
On arrival to the MICU, patient complained only of lower 
extremity edema and fatigue. His vitals on transfer: T:98.5  
RR:19  BP:97/45  SpO2:94%. He continued to require pressors on 
floor
 
Past Medical History:
1. Thrombocytopenia. Baseline is in 50,000s x many years.
2. Depression.
3. Essential tremor.
4. Diarrhea.
5. Prostate cancer s/p radiation treatment.
6. Hypertension.
7. Benign prostatic hypertrophy.
8. Ankle edema.
9. Memory disorder.
10. OSA on CPAP
11. Bullous pemphigoid
12. Chronic systolic cardiomyopathy EF 25%
13. Atrial fibrillation not on anticoagulation 
 
Social History:
___
Family History:
Father and Mother died in ___
Brother with macular degeneration

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Weight baseline 162-164 lbs (per ___ note)
Vitals: T:98.5  BP:136/64  P:96  R:26  O2:100  
General: Awake and alert, interactive with exam, in no acute 
distress
HEENT: Dry mucous membranes
CV: irregularly irregular rhythm, normal S1 S2, no murmurs
Lungs: Bronchial breath sounds at left base with crackles and 
egophony, no wheezes
Abdomen: Soft, normoactive bowel sounds, nontender, 
nondistended, no rebound or guarding
GU: Foley in place
Ext:  Feet cool, no cyanosis, 3+ pitting edema of BLE with skin 
breakdown, warmth, and weeping of RLE. Peripheral pulses 2+ at 
radials and doppler at feet
Neuro: alert and interactive. EOMI, PERRLA, oriented to person. 
Difficulty hearing bilaterally. Face and palate elevation 
symmetric. Moving all extremities. 
.
.
Discharge Day Exam:
VS: 98.1, 142/80, 70, 18, 98% on RA
Pain: ___
Weight: 166 pounds
Gen: NAD, comfortable
Neck: elevated JVP
CV: irreg irreg, no murmurs
Lungs: CTAB/L
Abd: soft, NT, ND, NABS
Ext: warm, 3+ b/l pitting edema
Neuro: AAOx3, fluent speech
.
 
Pertinent Results:
ADMISSION LABS:
___ 08:01PM   LACTATE-1.1
___ 11:55AM   ___ COMMENTS-GREEN TOP
___ 11:55AM   LACTATE-2.7*
___ 08:00AM   ___ COMMENTS-GREEN TOP
___ 08:00AM   LACTATE-4.4*
___ 07:55AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:55AM URINE  BLOOD-LG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 07:55AM URINE  RBC-43* WBC-20* BACTERIA-NONE YEAST-NONE 
EPI-0
___ 07:55AM URINE  HYALINE-5*
___ 07:55AM URINE  MUCOUS-RARE
___ 07:30AM   GLUCOSE-150* UREA N-41* CREAT-1.6* SODIUM-145 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-31 ANION GAP-15
___ 07:30AM   cTropnT-0.06*
___ 07:30AM   proBNP-2912*
___ 07:30AM   CALCIUM-8.2* PHOSPHATE-2.6* MAGNESIUM-1.9
___ 07:30AM   WBC-8.0 RBC-3.41* HGB-11.9* HCT-35.9* 
MCV-105* MCH-35.1* MCHC-33.3 RDW-15.1
___ 07:30AM   NEUTS-89.9* LYMPHS-7.7* MONOS-1.9* EOS-0.2 
BASOS-0.2
___ 07:30AM   PLT COUNT-98*
___ 07:30AM   ___ PTT-26.6 ___
.
IMAGING:
CXR ___ 
Dense retrocardiac opacity likely represents a combination of 
pleural effusion and lung consolidation due to atelectasis 
versus pneumonia. 
.
___ Left leg ___
IMPRESSION: No evidence of deep vein thrombosis in the left 
lower extremity. 
.
CXR ___
FINDINGS:  Frontal radiograph of the chest shows unchanged right 
internal jugular and left PICC lines.  The right internal 
jugular central venous catheter persists in the high right 
atrium.  Compared to prior radiograph, the cardiac silhouette is 
unchanged.  There is no evidence of pulmonary vascular 
congestion or pleural effusions.  The opacity that was seen at 
the left base has improved in the interim and was likely 
atelectasis.  There is no acute consolidation. 
IMPRESSION: 
1.  Right internal jugular catheter persists in the high right 
atrium. 
2.  Unchanged cardiac silhouette with no evidence of pulmonary 
edema.  No 
pleural effusions. 
.
Discharge Labs:
___ 06:00AM BLOOD WBC-9.0# RBC-3.03* Hgb-10.6* Hct-33.3* 
MCV-110* MCH-34.9* MCHC-31.9 RDW-15.0 Plt Ct-86*
___ 05:41AM BLOOD Glucose-153* UreaN-54* Creat-1.5* Na-142 
K-4.2 Cl-101 HCO3-33* AnGap-12
___ 05:41AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.3
___ 06:00AM BLOOD VitB12-1241* Folate-GREATER TH
.
.
MICROBIOLOGY:
___ Blood culture x 2 sets - No growth
___ Blood culture x 1 set - No growth
___ Urine culture - No growth
___ Urine Legionella Ag - NEGATIVE
___ MRSA Screen - NEGATIVE for MRSA
.
 
Brief Hospital Course:
The patient is a ___ male with systolic CHF (LVEF 25%),Afib (not 
on anticoagulation) with malaise found to have pneumonia and 
septic shock requiring vasopressor with hospital course 
complicated by decompensated heart failure
. 
# SEPSIS/PNEUMONIA:  
Mr. ___ met sepsis criteria with T:103.8, RR:25 with concern 
for pneumonia on x-ray. He required pressor support for 
hypotension. He was treated broadly with vancomycin, zosyn, and 
levofloxacin initially. His fever curve, leukocytosis, 
hemodynamic and respiratory status improved.  Antibiotic therapy 
was de-escalated to levofloxacin only and he completed an 8 day 
course of levofloxacin.  His steroids were stress dosed for 3 
days. He had a history of cough with drinking liquids, but 
passed his speech and swallow evaluation.  All blood and urine 
cultures with no growth.  Urine Legionella Ag was NEGATIVE.  
.
#ACUTE on CHRONIC SYSTOLIC CHF:  
He has a history of systolic CHF with most recent echo ___ 
shows severely depressed left ventricular systolic function 
(LVEF = 25 %) secondary to severe global hypokinesis with 
posterior wall akinesis. He has DOE at baseline as well as 
severe BLE pitting edema. He developed worsening dyspnea in the 
ICU after fluid resuscitation and required diuresis with IV 
lasix.  He was then transitioned back to PO diuretics with 
Torsemide.  His home dose is 30mg po daily, but this was 
increased to 40mg po daily, and he should continue on this 
regimen till f/u with his Cardiologist.  His ACE-I was held in 
the setting of sepsis, but should be re-started on discharge.  
On day of discharge, his weight is 167 pounds with baseline 
weight at 162 pounds.  
. 
#ATRIAL FIBRILLATION:  
He has a history of atrial fibrillation.  He was in atrial 
fibrillation during hospitalization. He was continued on 
metoprolol and digoxin for rate control. He has a CHADS2 score=3 
(CHF, HTN, and age). He is followed by cardiology and was 
continued on aspirin for thromboembolic prophylaxis. 
.
#ANEMIA/THROMBOCYTOPENIA:  
He has chronic macrocytic anemia and thrombocytopenia. 
.
#CKD :
He has chronic kidney disease with elevated Cr in the range of 
1.5 - 1.7.  His Cr remained in that general range during this 
admission and he maintained good urine output.  
.
#H/O BULLOUS PEMPHIGOID:  
At home he takes PredniSONE 17.5 mg PO daily. Stress dosed 
steriods at 60 mg PO daily x 3 days then returned to home dose. 
. 
#OSA:  
Wears CPAP at home while sleeping. This was continued during the 
hospitalization.
.
#DEPRESSION: 
Has experienced depression since his wife died last year. 
Continued Mirtazapine.
.  
#BPH/PROSTATE CA:  
Terazosin was held while hypotensive but subsequently restarted.
. 
# Communication: Patient and Daughter ___ ___  
# Code: DNR but may intubate in emergency  
.
.
.
TRANSITIONAL ISSUES:
1.  Will need continued diuresis with Torsemide as he is above 
his dry weight and has pitting edema in the b/l lower 
extremities.  
2.  Please check daily weights to guide diuresis
3.  Frequent Chem-10 checks to monitor diuresis.  Recommend next 
Chem-10 check on ___.  
3.  PENDING STUDIES AT TIME OF DISCHARGE: NONE

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Digoxin 0.0625 mg PO QAM 
3. Lisinopril 2.5 mg PO DAILY 
4. Metoprolol Succinate XL 75 mg PO QAM 
5. Metoprolol Succinate XL 50 mg PO HS 
6. Mirtazapine 22.5 mg PO HS 
7. Omeprazole 20 mg PO DAILY 
8. Potassium Chloride 20 mEq PO DAILY 
9. PredniSONE 17.5 mg PO QAM 
10. Terazosin 5 mg PO HS 
11. Torsemide 30 mg PO DAILY 
12. Torsemide 10 mg PO ONCE:PRN weight gain 
13. Vitamin D 1000 UNIT PO DAILY 
14. Miconazole 2% Cream 1 Appl TP BID:PRN jock itch 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Digoxin 0.0625 mg PO QAM 
3. Miconazole 2% Cream 1 Appl TP BID:PRN jock itch 
4. Mirtazapine 22.5 mg PO HS 
5. Omeprazole 20 mg PO DAILY 
6. PredniSONE 17.5 mg PO QAM 
7. Terazosin 5 mg PO HS 
8. Vitamin D 1000 UNIT PO DAILY 
9. Heparin 5000 UNIT SC BID 
10. Lisinopril 2.5 mg PO DAILY 
11. Metoprolol Succinate XL 75 mg PO QAM 
12. Metoprolol Succinate XL 50 mg PO HS 
13. Potassium Chloride 20 mEq PO DAILY 
Hold for K > 4.5 
14. Torsemide 40 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
sepsis (septic shock) due to likely bacterial pneumonia
acute on chronic systolic heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital for infection due to 
pneumonia.  You were severely ill initially, requiring admission 
to the ICU.  You were treated with a course of antibiotics for 
pneumonia.  You continue to have lots of fluid in your legs, due 
to your heart failure, and we are removing the fluid with "water 
pills," your home medication of torsemide (Demadex), but the 
dose has been increased.  Because you are weaker than you are 
usually, the physical therapists recommend ___ rehab 
before return to home.
.
Please take your medications as listed.
.
Please follow-up with your physicians as listed.
.
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___